US07943774B2
tert-Butyl 4-[4-(3-phenylprop-1-yn-1-yl)-1,3-thiazol-2-yl]piperidine-1-carboxylate (IV-5)
Under argon, benzyl chloride (134 mg), bis(acetonitrile)dichloropalladium(II) (5.5 mg), 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl (30 mg) and caesium carbonate (363 mg) are added to a degassed solution of tert-butyl 4-(4-ethynyl-1,3-thiazol-2-yl)piperidine-1-carboxylate (X-1, 310 mg) in tetrahydrofuran (4 ml). The mixture is then warmed to 65° C. After subsequent cooling, the catalyst is removed by filtration over Celite and the filtrate is concentrated under reduced pressure. After chromatographic purification, this gives tert-butyl 4-[4-(3-phenylprop-1-yn-1-yl)-1,3-thiazol-2-yl]piperidine-1-carboxylate (329 mg).

reactant | benzyl chloride | 134 mg | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl | 30 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
reactant | caesium carbonate | 363 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | tert-butyl 4-(4-ethynyl-1,3-thiazol-2-yl)piperidine-1-carboxylate | 310 mg | C(#C)C=1N=C(SC1)C1CCN(CC1)C(=O)OC(C)(C)C | C15H20N2O2S
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
catalyst | bis(acetonitrile)dichloropalladium(II) | 5.5 mg | CC#N.CC#N.Cl[Pd]Cl
product | tert-Butyl 4-[4-(3-phenylprop-1-yn-1-yl)-1,3-thiazol-2-yl]piperidine-1-carboxylate | C1(=CC=CC=C1)CC#CC=1N=C(SC1)C1CCN(CC1)C(=O)OC(C)(C)C | C22H26N2O2S
